US08877759B2
2-[4-[5-amino-6-(3-phenylisoxazol-5-yl)pyrazin-2-yl]-2-pyridyl]-2-methyl-propanenitrile (90 mg, 0.2353 mmol) was added to methanol (3 mL) followed by the addition of 1 M sodium hydroxide (705.9 μL of 1 M, 0.7059 mmol). The mixture was heated in the microwave for 90 minutes at 110° C. The reaction was cooled to ambient temperature and diluted with ethyl acetate/water. The organic layer was washed with brine (×1). The aqueous layer was acidified to pH3 with 1 M hydrochloric acid, extracted with ethyl acetate (×3) and the combined organic extracts washed with brine (×1). The extracted organic layer was dried over MgSO4, filtered and concentrated in vacuo to yield 2-[4-[5-amino-6-(3-phenylisoxazol-5-yl)pyrazin-2-yl]-2-pyridyl]-2-methyl-propanoic acid as white solid (40 mg, 42%) LC/MS m/z 401.1 [M+H]+.

reactant | 2-[4-[5-amino-6-(3-phenylisoxazol-5-yl)pyrazin-2-yl]-2-pyridyl]-2-methyl-propanenitrile | 0.2353 mmol, 90 mg | NC=1N=CC(=NC1C1=CC(=NO1)C1=CC=CC=C1)C1=CC(=NC=C1)C(C#N)(C)C | C22H18N6O
reactant | methanol | 3 mL | CO | CH4O
reactant | sodium hydroxide | 0.7059 mmol, 1 M, 705.9 μL | [OH-].[Na+]
reactant | ethyl acetate water | C(C)(=O)OCC.O
product | 2-[4-[5-amino-6-(3-phenylisoxazol-5-yl)pyrazin-2-yl]-2-pyridyl]-2-methyl-propanoic acid | 40 mg, 42% | NC=1N=CC(=NC1C1=CC(=NO1)C1=CC=CC=C1)C1=CC(=NC=C1)C(C(=O)O)(C)C | C22H19N5O3
